US06071903
As described for the general reaction of ethyl 2-fluorobenzoate with amines set forth in Tetrahedron, 53:7557-7576 (1997), ethyl 2-fluorobenzoate was reacted with pyrazole by refluxing N,N-dimethylformamide to give ethyl 2-(1-pyrazolyl)benzoate, as a thick yellow oil. Anal. Calc'd: for C12H12N2O2 : C, 66.7; H, 5.6; N 13.0: Found: C, 66.5: H, 5.4: N, 12.9; Mass spectrum (ES) 217.2 (M+H). A sample (7.02 g) of this compound and 8.42 ml of 5N NaOH in 40 ml of ethanol-tetrahydrofuran (2:1) was refluxed for 2 hrs and the solvent removed. The residue was made acidic (pH6) with 2N citric acid and the precipated solid was filtered to obtain 3.7 g of product. The pH of the filtrate was adjusted to 4.5 and extracted with ethyl acetate. The extract was concentrated to dryness to give 1.5 g of product. The two crops were combined to give 5.2 g of 2-(1-pyrazolyl)benzoic acid, mp 140-142° C. To the preceding compound (2.07 g) in 5 ml CH2Cl2 (chilled in an ice bath) was added 11.1 ml of a 2 Molar solution of oxalyl chloride in CH2Cl2 and 0.085 ml of N,N-dimethylformamide. The mixture was allowed to warm to room temperature and stirred for 4 hours. The solvent was removed and 25 ml of toluene added (twice) and removed under vacuum to give 2-(1-pyrazolyl)benzoyl chloride as a yellow solid.

reactant | ethyl 2-fluorobenzoate | FC1=C(C(=O)OCC)C=CC=C1 | C9H9FO2
reactant | pyrazole | N1N=CC=C1 | C3H4N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-(1-pyrazolyl)benzoate | N1(N=CC=C1)C1=C(C(=O)OCC)C=CC=C1 | C12H12N2O2
